US08227639B2
2-Hydroxysulfamoyl-benzoic Acid Methyl Ester (Compound 1)
A solution of potassium carbonate (3.53 g, 25.57 mmol) in water (3.6 ml) was added dropwise to a solution of hydroxylamine hydrochloride (1.76 g, 25.57 mmol) in water (2.4 ml) at 0° C. maintaining an internal reaction temperature between 5° C. and 15° C. THF (12 ml) and methanol (3 ml) were added, followed by 2-chlorosulfonyl-benzoic acid methyl ester (3 g, 12.78 mmol) portionwise maintaining a temperature below 15° C. and the reaction mixture was stirred at ambient temperature until complete consumption of the sulfonyl chloride was observed by tlc. The resulting suspension was concentrated to remove any volatiles and the aqueous suspension was extracted with diethyl ether (2×100 ml). The organic portion was dried over sodium sulphate, filtered and concentrated in vacuo to yield the crude N-hydroxy sulfonamide. Purification was achieved by chromatography on silica gel eluting with heptane:ethyl acetate (8:2 v:v) to give the parent compound as a white solid (1.3 g, 44% yield); δH (400 MHz, DMSO) 9.87 (1H, d, 3.4 Hz), 9.39 (1H, d, 3.2 Hz), 7.97 (1H, m), 7.77 (2H, m), 7.68-7.72 (1H, m), 3.83 (3H, s); TR=1.43 min.

reactant | potassium carbonate | 25.57 mmol, 3.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 25.57 mmol, 1.76 g | Cl.NO
reactant | 2-chlorosulfonyl-benzoic acid methyl ester | 12.78 mmol, 3 g | COC(C1=C(C=CC=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 3.6 ml | O | H2O
solvent | water | 2.4 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 2-Hydroxysulfamoyl-benzoic Acid Methyl Ester | 1.3 g, 44% yield | COC(C1=C(C=CC=C1)S(NO)(=O)=O)=O | C8H9NO5S
